US04638005
1-Methyl-3-(2-acetamidoethyl)pyrazinium iodide (3800)
3.0 g of 2-(2-acetamidoethyl)pyrazine, prepared by the method of G. M. Singerman, et. al., J. Org. Chem., 30, 4379 (1965), was dissolved in 10 ml of ether and 10 ml of methyl iodide added. The flask was stoppered and stored in the dark for 2 weeks. The resultant solid was filtered, washed with ether and dried in vacuo to give 3.4 g of a yellow solid product (3800). It was recrystallized from ethyl acetate/ethanol, m.p. 138°-9°. UV H2O max: 226 (4.17), 281 (3.85).

reactant | 2-(2-acetamidoethyl)pyrazine | 3.0 g | C(C)(=O)NCCC1=NC=CN=C1 | C8H11N3O
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | ether | 10 ml | CCOCC | C4H10O
product | 1-Methyl-3-(2-acetamidoethyl)pyrazinium iodide | 3.4 g | [I-].C[N+]1=CC(=NC=C1)CCNC(C)=O | InChI=1S/C9H13N3O.HI/c1-8(13)10-4-3-9-7-12(2)6-5-11-9;/h5-7H,3-4H2,1-2H3;1H
